US08067408B2
Methyl 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate
To a solution of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine (1.02 g, 3.0 mmol) in DCM (30 mL) was added 4-[(methyloxy)carbonyl]benzoic acid (0.541 g, 3.0 mmol), HBTU (1.37 g, 3.6 mmol), and Et3N (0.843 mL, 6.0 mmol) This mixture was stirred at room temperature for 23 h. It was diluted with DCM (30 mL), which was washed with H2O (30 mL) and dried over Na2SO4, filtered, concentrated and the concentrate purified by CombiFlash chromatograph to afford the title compound 1.40 g (quantitative). LC-MS m/z 466 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine | 3.0 mmol, 1.02 g | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | 4-[(methyloxy)carbonyl]benzoic acid | 3.0 mmol, 0.541 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | HBTU | 3.6 mmol, 1.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 6.0 mmol, 0.843 mL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 1.40 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=C(C(=O)OC)C=C2)CC | C25H31N5O4
